// RLC damping design - Spectre netlist (output across C)
simulator lang=spectre
global 0

// Fast voltage step on `in` (edge << circuit natural period -> ideal step)
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=6.81081e-09 rise=2.72432e-11 fall=2.72432e-11 width=1.08973e-06 period=2.17946e-06

// Series RLC. R1 is the damping resistor to size; L1 and C1 are FIXED.
l1 (in mid) inductor l=1e-06
r1 (mid out) resistor r=675.016
c1 (out 0) capacitor c=4.7e-12

// Transient: maxstep resolves the ring, stop captures the settling tail
tran tran stop=5.44865e-07 errpreset=conservative maxstep=6.81081e-11

save in out
